US06555584B1
N-[2-(3-Heptyloxybenzamido)benzenesulfonyl]hexanamide
In a stream of nitrogen and at 0° C., 0.16 ml (1.10 mmol) of hexanoyl chloride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 390 mg (1.00 mmol) of 3-heptyloxy-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 9 and 249 mg (2.00 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 412 mg (yield: 84.4%) of the title compound.

reactant | hexanoyl chloride | 1.10 mmol, 0.16 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | 3-heptyloxy-N-(2-sulfamoylphenyl)benzamide | 1.00 mmol, 390 mg | C(CCCCCC)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(N)(=O)=O)C=CC1 | C20H26N2O4S
catalyst | 4-dimethylaminopyridine | 2.00 mmol, 249 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-(3-Heptyloxybenzamido)benzenesulfonyl]hexanamide | 412 mg, yield: 84.4% | C(CCCCCC)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)NC(CCCCC)=O)C=CC1 | C26H36N2O5S
